US09102673B2
Step 1: methyl 8-chloroimidazo[1,2-a]pyrazine-2-carboxylate
To a solution of 3-chloropyrazin-2-amine (52 g, 401 mmol) in acetonitrile (750 mL) under N2 was added sodium bicarbonate (67.4 g, 803 mmol), and then methyl bromopyruvate (97 mL, 803 mmol). The mixture was then heated to 80° C. for 4 hours and then cooled to r.t. The reaction was then diluted water (2200 mL) and stirred for 30 minutes. The resulting solids were filtered, azeotroped with EtOAc (2 L), and dried overnight at 40° C. under vacuum and nitrogen sweep to give the title compound (60 g). LRMS (ESI) calc (M+H)+=212.0. found 212.0

reactant | 3-chloropyrazin-2-amine | 401 mmol, 52 g | ClC=1C(=NC=CN1)N | C4H4ClN3
reactant | sodium bicarbonate | 803 mmol, 67.4 g | C([O-])(O)=O.[Na+]
reactant | methyl bromopyruvate | 803 mmol, 97 mL | BrCC(C(=O)OC)=O | C4H5BrO3
reactant | water | 2200 mL | O | H2O
solvent | acetonitrile | 750 mL | C(C)#N | C2H3N
product | methyl 8-chloroimidazo[1,2-a]pyrazine-2-carboxylate | 60 g | ClC=1C=2N(C=CN1)C=C(N2)C(=O)OC | C8H6ClN3O2
